US07470679B2
tert-Butyl 4-(2,5-dioxo-4-phenylimidazolidin-1-yl)piperidine-1-carboxylate
Triethylamine (200 μL, 1.43 mmol) was added to a solution of tert-butyl 4-(3-(2-ethoxy-2-oxoethyl)-3-phenylureido)piperidine-1-carboxylate (90 mg, 0.22 mmol) in ethanol (1.8 mL). Reaction was held at 60° C. with stirring for 3 hours. Reaction mixture was concentrated in vacuo. Reside was treated with dichloromethane (20 mL) and then concentrated in vacuo. Title compound was obtained as white solid in 81% yield. MS m/e (M−C4H8+H)+=304.2.

reactant | Triethylamine | 1.43 mmol, 200 μL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(3-(2-ethoxy-2-oxoethyl)-3-phenylureido)piperidine-1-carboxylate | 0.22 mmol, 90 mg | C(C)OC(CN(C(NC1CCN(CC1)C(=O)OC(C)(C)C)=O)C1=CC=CC=C1)=O | C21H31N3O5
solvent | ethanol | 1.8 mL | C(C)O | C2H6O
product | tert-Butyl 4-(2,5-dioxo-4-phenylimidazolidin-1-yl)piperidine-1-carboxylate | 81% yield | O=C1N(C(C(N1)C1=CC=CC=C1)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O4
